US04080505
In 10 ml of ether, 350 mg of ethyl 2-hydroxy-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate, 360 mg of thionyl chloride, and catalytic amount of pyridine are added and stirred at room temperature overnight. Then, saturated aqueous sodium bicarbonate solution is added and the ether layer separated is dried, evaporated, and purified with column chromatography. Ethyl-2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate is obtained with the yield of 300 mg. In IR and NMR, this product is in good agreement with the compound No. 1 in Example 7.

reactant | ethyl 2-hydroxy-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate | 350 mg | OC(C(=O)OCC)CC1=CC=C(C=C1)OC(C)(C)C(C1=CC=CC=C1)=O | C21H24O5
reactant | thionyl chloride | 360 mg | S(=O)(Cl)Cl | Cl2OS
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ether | 10 ml | CCOCC | C4H10O
product | Ethyl-2-chloro-3-[4-(2-benzoyl-2-propyloxy)phenyl]propionate | C(C)OC(C(CC1=CC=C(C=C1)OC(C)(C)C(C1=CC=CC=C1)=O)Cl)=O | C21H23ClO4
